US08957205B2
N-[[1-[[(4-Methoxyphenyl)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol
260 mg (1.00 mmol) of 2-(4-methoxyphenyl)-3-oxo-1-azaspiro[4.5]dec-1-en-4-one was added to a solution of 252 mg (2.45 mmol) of L-valinol in 5 ml of ethyl acetate, and the mixture was stirred at room temperature for 4 days. The reaction solution was distilled off under reduced pressure and the residue was washed with diethyl ether to obtain 243.5 mg (66.7%) of the title compound.

reactant | 2-(4-methoxyphenyl)-3-oxo-1-azaspiro[4.5]dec-1-en-4-one | 1.00 mmol, 260 mg | COC1=CC=C(C=C1)C1=NC2(C(C1=O)=O)CCCCC2 | C16H17NO3
reactant | L-valinol | 2.45 mmol, 252 mg | N[C@@H](C(C)C)CO | C5H13NO
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-[[1-[[(4-Methoxyphenyl)carbonyl]amino]cyclohexyl]carbonyl]-L-valinol | 243.5 mg, 66.7% | COC1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)N[C@@H](C(C)C)CO | C20H30N2O4
